US08283354B2
To a solution of 4-chloro-2-(2-methoxy-6-methylphenyl)-7-methylquinazoline (669 mg, 2.24 mmol) in 7 mL CH2Cl2 was added dropwise 5 equivalents of a 1 M solution of BBr3 in CH2Cl2 at −78° C. The reaction was warmed to room temperature and was complete in 30 minutes. The reaction was quenched with a saturated aqueous NaHCO3 solution until the pH was neutral. The aqueous layer was extracted with CH2Cl2, dried over MgSO4, filtered, and concentrated to obtain 2-(4-chloro-7-methylquinazolin-2-yl)-3-methylphenol. LC/MS: m/z 285.1 (M+H)+ at 3.94 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 4-chloro-2-(2-methoxy-6-methylphenyl)-7-methylquinazoline | 2.24 mmol, 669 mg | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1C)OC | C17H15ClN2O
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-chloro-7-methylquinazolin-2-yl)-3-methylphenol | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1C)O | C16H13ClN2O
